US04258055
3-Hydroxyflavylium chloride
88 g of salicylaldehyde were dissolved in 300 ml of anhydrous ethyl acetate together with 132 g of omega-acetoxyacethophenone. The solution was cooled to 0° C. and saturation with gaseous HCl commenced, which took about one hour. The mixture was then left at 4° C. for 48 hours and the crystallised solid filtered off, this consisting of 106 g of 3-hydroxyflavylium chloride.

reactant | salicylaldehyde | 88 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | HCl | Cl | ClH
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 3-Hydroxyflavylium chloride | [Cl-].OC=1C(=[O+]C2=CC=CC=C2C1)C1=CC=CC=C1 | InChI=1S/C15H10O2.ClH/c16-13-10-12-8-4-5-9-14(12)17-15(13)11-6-2-1-3-7-11;/h1-10H;1H
